US09210927B2
Preparation of 5-Formyl-2-(3-nitro-1H-1,2,4-triazol-1-yl)benzonitrile (DI52)
To a stirring solution of 2-fluoro-5-formylbenzonitrile (0.5 g, 3.3 mmol) in DMF (25 mL) were added K2CO3 (0.68 g, 4.95 mmol) and 3-nitro-1,2,4 triazole (0.45 g, 4.2 mmol) and the resultant reaction mixture was stirred at ambient temperature for 14 h. After completion of reaction (TLC), the reaction mixture was diluted with water and extracted with EtOAc. The combined EtOAc layer was washed with water and brine then dried over Na2SO4 and concentrated under reduced pressure to afforded the title compound as a pale yellow solid (0.36 g, 45%): mp 170-172° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.12 (s, 1H), 9.61 (s, 1H), 8.69 (s, 1H), 8.45 (d, J=9.3 Hz, 1H), 8.23 (d, J=9.3 Hz, 1H); ESIMS m/z 242.3 ([M−H]−); IR (thin film) 2238, 1705, 1551, 1314 cm−1.

reactant | 2-fluoro-5-formylbenzonitrile | 3.3 mmol, 0.5 g | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | K2CO3 | 4.95 mmol, 0.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-nitro-1,2,4 triazole | 4.2 mmol, 0.45 g | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Formyl-2-(3-nitro-1H-1,2,4-triazol-1-yl)benzonitrile | 0.36 g, 45% | C(=O)C=1C=CC(=C(C#N)C1)N1N=C(N=C1)[N+](=O)[O-] | C10H5N5O3
